US08791142B2
Step 1) tert-butyl N-(5-cyanopyridin-2-yl)glycinate
A solution of 6-chloronicotinonitrile (1.00 g, 7.2 mmol), glycine tert-butyl ester (1.04 g, 7.9 mmol) and DIEA (4.9 mL, 29 mmol) in anhydrous dioxane (20 mL) was heated at reflux. After 24 hours, an additional amount of glycine tert-butyl ester (0.5 g, 3.8 mmol) was added. After 24 additional hours at reflux, the reaction mixture was concentrated under reduced pressure. The residue was taken up with EtOAc (50 mL) and washed with water (20 mL). The organic layer was dried (MgSO4) and the solvent was removed under reduced pressure. After precipitation from EtOAc/Et2O/heptane, the title compound was obtained as an off-white powder (1.55 g, 92%). HPLC (Method A), Rt: 3.1 min (purity: 95.1%). UPLC/MS, M+(ESI): 178.0 ([M-tBu+2H]+), M−(ESI): 232.1. 1H NMR (DMSO-d6, 300 MHz) δ 8.39 (d, J=2.1 Hz, 1H), 7.91 (m, 1H), 7.72 (dd, J=8.8, 2.1 Hz, 1H), 6.66 (d, J=8.8 Hz, 1H), 3.98 (d, J=6.1 Hz, 2H), 1.39 (s, 9H).

reactant | 6-chloronicotinonitrile | 7.2 mmol, 1.00 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | glycine tert-butyl ester | 7.9 mmol, 1.04 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | DIEA | 29 mmol, 4.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | glycine tert-butyl ester | 3.8 mmol, 0.5 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | tert-butyl N-(5-cyanopyridin-2-yl)glycinate | C(#N)C=1C=CC(=NC1)NCC(=O)OC(C)(C)C | C12H15N3O2
